US09260427B2
To a 100 ml flask were added (4-hydroxyphenyl)boronic acid (224.6 mg, 1.6 mmol), sodium carbonate decahydrate (96.0 mg, 1.6 mmol), tert-butyl ((S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanoyl)-D-alaninate (500.0 mg, 1.6 mmol), Pd(dppf)Cl2 (58.5 mg, 0.08 mmol), THF (2.0 mL), CH3CN (2.0 ml) and water (1.0 mL). The solution was degassed using N2 bubbling for 10 min. The reaction mixture was heated to 80° C. for 2 hours. The reaction mixture was dried under reduced pressure to remove the solvent and diluted in DCM (20 mL). The mixture was extracted with DCM (3×20 mL) and aqueous NaHCO3 (3×10 mL). The combined organics were dried over MgSO4 and evaporated. The final compound was purified by column chromatography (40% DCM in hexane) to afford 462.3 mg (91%) of tert-butyl ((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-hydroxyphenyl)pyrimidin-2-yl)phenyl)propanoyl)-D-alaninate INT-36 as a solid. LCMS-ESI (m/z) calculated for C35H40N4O5S: 628.3. found 629.3 [M+H]+, tR=3.447 min. (Method 16). 1H NMR (400 MHz, DMSO) δ 9.79 (s, 1H), 9.12 (s, 2H), 8.55 (t, J=16.2 Hz, 1H), 8.43 (d, J=7.2 Hz, 1H), 8.30 (d, J=8.1 Hz, 2H), 7.69 (t, J=7.5 Hz, 3H), 7.50 (dd, J=15.4, 8.3 Hz, 2H), 7.00-6.85 (m, 2H), 6.75 (t, J=9.9 Hz, 1H), 4.80 (td, J=9.7, 4.7 Hz, 1H), 4.15 (p, J=7.2 Hz, 1H), 3.10 (ddd, J=39.3, 19.4, 11.8 Hz, 2H), 1.40 (d, J=6.6 Hz, 9H), 1.31 (s, 9H), 1.23 (t, J=11.1 Hz, 3H).

reactant | (4-hydroxyphenyl)boronic acid | 1.6 mmol, 224.6 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | sodium carbonate decahydrate | 1.6 mmol, 96.0 mg | O.O.O.O.O.O.O.O.O.O.C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl ((S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanoyl)-D-alaninate | 1.6 mmol, 500.0 mg | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)N[C@H](C)C(=O)OC(C)(C)C)NC(=O)C=1SC(=CC1)C(C)(C)C | C29H35BrN4O4S
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 0.08 mmol, 58.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1.0 mL | O | H2O
solvent | CH3CN | 2.0 ml | CC#N | C2H3N
product | tert-butyl ((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-hydroxyphenyl)pyrimidin-2-yl)phenyl)propanoyl)-D-alaninate | 462.3 mg, 91% | C(C)(C)(C)C1=CC=C(S1)C(=O)N[C@H](C(=O)N[C@H](C)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)O | C35H40N4O5S
